US09388189B2
(S)-2-(1-((5-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (103 mg, 0.17 mmol) was treated with 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (103 mg, 0.42 mmol), sodium carbonate (51 mg, 0.48 mmol), 1,1-bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (43 mg, 0.05 mmol) in 1,2-dimethoxyethane (4 ml) and water (1 ml) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 100% hexane-ethyl acetate) to obtain 55 mg (48% yield, 96% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.17 mmol, 103 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | 5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.42 mmol, 103 mg | CC1(OB(OC1(C)C)C=1C=C2C(=NC1)NC=C2)C | C13H17BN2O2
reactant | sodium carbonate | 0.48 mmol, 51 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 4 ml | COCCOC | C4H10O2
solvent | water | 1 ml | O | H2O
product | (S)-2-(1-((5-(1H-Pyrrolo[2,3-b]pyridin-5-yl)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 48% yield | N1C=CC=2C1=NC=C(C2)C2=CN(C=1N=CN=C(C12)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)C)COCC[Si](C)(C)C | C34H37N9O2Si
